* source LAB5
R_R1         0 N00406  2200k TC=0,0 
R_R2         N00175 N00157  1.8k TC=0,0 
R_R3         0 N00171  3.3k TC=0,0 
J_J1         N00175 N00406 N00171 JbreakN 
V_V1         N00157 0 12Vdc
R_R4         N00406 N00157  3300k TC=0,0 
